US05547972
In a similar manner to Example 52c a mixture of imidazole (1.05 g) and sodium hydride (0.63 g, 60% dispersion) in THF (35 ml) was treated with 3-chloro-N-[1-(4-chlorophenyl)-1-methylethyl]propionamide (4.0 g) in THF (15 ml) to give N-[1-(4-chlorophenyl)-1-methylethyl]-3-(imidazol-1-yl)propionamide which was used directly in part (c).

reactant | imidazole | 1.05 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.63 g | [H-].[Na+]
reactant | 3-chloro-N-[1-(4-chlorophenyl)-1-methylethyl]propionamide | 4.0 g | ClCCC(=O)NC(C)(C)C1=CC=C(C=C1)Cl | C12H15Cl2NO
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-[1-(4-chlorophenyl)-1-methylethyl]-3-(imidazol-1-yl)propionamide | ClC1=CC=C(C=C1)C(C)(C)NC(CCN1C=NC=C1)=O | C15H18ClN3O
